US08431575B2
4-[5-(4-Benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester (0.47 mmol, 250 mg) was dissolved in 4.0 M HCl in dioxane and stirred for 45 min at room temperature. The solvent was evaporated and the resultant solid was washed with ether and dried to provide 4-(4-benzyloxy-phenyl)-3-butyl-6-(piperidin-4-ylmethoxy)-pyridazine dihydrochloride.

reactant | 4-[5-(4-Benzyloxy-phenyl)-6-butyl-pyridazin-3-yloxymethyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.47 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC=1N=NC(=C(C1)C1=CC=C(C=C1)OCC1=CC=CC=C1)CCCC | C32H41N3O4
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-benzyloxy-phenyl)-3-butyl-6-(piperidin-4-ylmethoxy)-pyridazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OCC1CCNCC1)CCCC | InChI=1S/C27H33N3O2.2ClH/c1-2-3-9-26-25(18-27(30-29-26)32-20-22-14-16-28-17-15-22)23-10-12-24(13-11-23)31-19-21-7-5-4-6-8-21;;/h4-8,10-13,18,22,28H,2-3,9,14-17,19-20H2,1H3;2*1H
